US09126999B2
Preparation 2: 3-(ethoxymethylene)pentane-2,4-dione
A solution of Acetylacetone (40 mL), Ethyl orthoformate (95.4 mL) and Acetic anhydride (54.2 mL) was heated to reflux (150° C.) for 1 hour. The reaction solution was cooled to room temperature and was directly subjected to flash column chromatography (E. Merck Silica Gel (˜120 g); Eluent: 100% EtOAc followed by 5% EtOH in EtOAc). Concentration of the fractions containing the pure product using a rotavap at 40° C. afforded the title compound as a dark red viscous oil (10.4 g, 17.0%).

reactant | Acetylacetone | 40 mL | C(C)(=O)CC(C)=O | C5H8O2
reactant | Ethyl orthoformate | 95.4 mL | C(OCC)([O-])[O-]
reactant | Acetic anhydride | 54.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | EtOH | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(ethoxymethylene)pentane-2,4-dione | 10.4 g, 17.0% | C(C)OC=C(C(C)=O)C(C)=O | C8H12O3
